US05374625
Benzoyl chloride (2.0 ml, 17 mmoles) was slowly added to a solution of (4S,5S)-4,5-bis(hydroxymethyl)-1-cyclohexene (1.00 g, 7.0 mmoles) in pyridine (7 ml) while cooling the system with ice. The resulting mixture was stirred at 0° C. for one hour. After adding dimethylaminopropylamine (0.8 ml, 6.4 mmoles) to the reaction mixture and stirring it at that temperature for 15 minutes, water was added and the product formed was extracted with ethyl ether. The ether extract solution was washed successively with water, dilute hydrochloric acid and saturated aqueous solution of sodium chloride and then dried on anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:9, v/v) to obtain (4S,5S)-4,5-bis(benzoyloxymethyl)- 1-cyclohexene (2.5 g, Yield 100%).

reactant | Benzoyl chloride | 17 mmoles, 2.0 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | (4S,5S)-4,5-bis(hydroxymethyl)-1-cyclohexene | 7.0 mmoles, 1.00 g | OC[C@H]1CC=CC[C@@H]1CO | C8H14O2
reactant | dimethylaminopropylamine | 6.4 mmoles, 0.8 ml | CN(C)CCCN | C5H14N2
reactant | water | O | H2O
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | (4S,5S)-4,5-bis(benzoyloxymethyl)- 1-cyclohexene | 2.5 g, Yield 100% | C(C1=CC=CC=C1)(=O)OC[C@H]1CC=CC[C@@H]1COC(C1=CC=CC=C1)=O | C22H22O4
